US04183924
E. 17α-(4'-Chlorobenzylthio)-1,4-Androstadiene-3,11-Dione
To 1.38 gm. of sodium metal dissolved in 120 ml. of ethanol is added 6 ml. of 4-chlorobenzylmercaptan followed by 2.26 gm. of 17β-methanesulfonyloxy-1,4-androstadiene-3,11-dione. Heat at reflux for 96 hours. Obtain a residue in a manner similar to that described in Example 1A. Dissolve the residue in a minimum amount of chloroform and pass through a 200 gm. silica gel column. Elute with chloroform following the fractions by TLC. Combine the fractions, reduce, and crystallize the residue from ethyl acetate/hexane to obtain the title compound; m.p. 176°-180° C.

reactant | sodium | [Na] | Na
reactant | ethanol | C(C)O | C2H6O
reactant | 4-chlorobenzylmercaptan | ClC1=CC=C(CS)C=C1 | C7H7ClS
reactant | 17β-methanesulfonyloxy-1,4-androstadiene-3,11-dione | CS(=O)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@H]1C(C2)=O)=O | C20H26O5S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 17α-(4'-Chlorobenzylthio)-1,4-Androstadiene-3,11-Dione | ClC1=CC=C(CS[C@H]2[C@]3(C)[C@@H](CC2)[C@@H]2CCC4=CC(C=C[C@]4(C)[C@H]2C(C3)=O)=O)C=C1 | C26H29ClO2S
